US08609676B2
A degassed solution of methyl 2-methyl-4-nitrobenzoate (3.5 g, 18.19 mmol), N-bromosuccinimide (3.9 g, 21.91 mmol, 1.2 eq) and benzoyl peroxide (3.63 mmol, 0.2 eq.) in 100 ml 0014 was heated at reflux for 4 hr. It was concentrated to dryness, dissolved in ether, washed 2× with water, aq. Na2S2O3, brine, dried over MgSO4, filtered, concentrated and purified by chromatography using 15% ethyl acetate in hexanes to provide 4.11 g of methyl 2-bromomethyl-4-nitrobenzoate.

reactant | methyl 2-methyl-4-nitrobenzoate | 18.19 mmol, 3.5 g | CC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H9NO4
reactant | N-bromosuccinimide | 21.91 mmol, 3.9 g, 1.2 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3.63 mmol, 0.2 eq. | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | methyl 2-bromomethyl-4-nitrobenzoate | 4.11 g | BrCC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H8BrNO4
